US03979396
0.1 g (.000219 moles) of 3-(N-carbethoxyacetamido)-4-carbomethoxyamino-2,5-dihydro-2-thiophenevaleric acid piperidide was dissolved in 10 ml of tetrahydrofuran, and to this solution, 2 ml of 1 N sodium hydroxide was added. The heterogeneous solution was stirred for 2 hrs. and was then worked up immediately. Tetrahydrofuran was removed under vacuum, and the aqueous basic residue was partitioned between 30 ml of water and 20 ml of dichloromethane. The aqueous phase was extracted three times with 20 ml portions of dichloromethane. The organic phases were combined, dried over anhydrous sodium sulfate, filtered, and evaporated, giving 0.08 g (0.000196 moles, 90%) of 3-carbethoxyamino-4-carbomethoxyamino-2,5-dihydro-2-thiophenevaleric acid piperidide. Upon trituration with pet. ether, the product was obtained as a solid which could be recrystallized from ethyl acetate to give white crystals; m.p. 120°-122°.

reactant | 3-(N-carbethoxyacetamido)-4-carbomethoxyamino-2,5-dihydro-2-thiophenevaleric acid piperidide | .000219 moles, 0.1 g | C(=O)(OCC)N(C(C)=O)C=1C(SCC1NC(=O)OC)CCCCC(=O)N1CCCCC1 | C21H33N3O6S
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-carbethoxyamino-4-carbomethoxyamino-2,5-dihydro-2-thiophenevaleric acid piperidide | 0.000196 moles, 0.08 g, 90% | C(=O)(OCC)NC=1C(SCC1NC(=O)OC)CCCCC(=O)N1CCCCC1 | C19H31N3O5S
